US08865712B2
e) [(RS)-1-(6-Bromo-pyridin-2-yl)-2-((R)-1-cyano-2,2,2-trifluoro-1-methyl-ethoxy)-1-methyl-ethyl]-carbamic acid tert-butyl ester
To an at 0° C. per cooled solution of [(RS)-1-(6-bromo-pyridin-2-yl)-2-((R)-1-carbamoyl-2,2,2-trifluoro-1-methyl-ethoxy)-1-methyl-ethyl]-carbamic acid tert-butyl ester (2.18 g, 4.64 mmol) and NEt3 (1.615 ml, 1.173 g, 11.59 mmol) in DCM (30 ml) was added dropwise TFAA (0.773 ml, 1.168 g, 5.56 mmol). After stirring for 5 min at 0° C., then for 1 h at rt the reaction mixture was diluted with sat. aq. Na2CO3 soln. and with DCM. The phases were separated and the aq. phase was twice reextracted with DCM. The combined org. phases were dried over Na2SO4, filtered and concentrated to leave a pale yellow oil which was stirred with 7N NH3/MeOH for 5 min. The mixture was evaporated to dryness and purified by flash chromatography (cyclohexane: EtOAc 0-3 min 100:0, 3-35 min 65:35) to yield the title compound as a clear oil.

reactant | [(RS)-1-(6-bromo-pyridin-2-yl)-2-((R)-1-carbamoyl-2,2,2-trifluoro-1-methyl-ethoxy)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 4.64 mmol, 2.18 g | C(C)(C)(C)OC(NC(CO[C@](C(F)(F)F)(C)C(N)=O)(C)C1=NC(=CC=C1)Br)=O | C17H23BrF3N3O4
reactant | NEt3 | 11.59 mmol, 1.615 ml, 1.173 g | CCN(CC)CC | C6H15N
reactant | TFAA | 5.56 mmol, 0.773 ml, 1.168 g | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | NH3 MeOH | 7N | N.CO
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | [(RS)-1-(6-Bromo-pyridin-2-yl)-2-((R)-1-cyano-2,2,2-trifluoro-1-methyl-ethoxy)-1-methyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CO[C@](C(F)(F)F)(C)C#N)(C)C1=NC(=CC=C1)Br)=O | C17H21BrF3N3O3
